US06759428B2
(3-Bromo-propoxy)-triisopropyl-silane (prepared from the corresponding alcohol, Greene, T. W. Protective Groups in Organic Chemistry; John Wiley & Sons, Inc.: New York, 1991) was reacted with 1H-indole-2-carboxylic acid methyl ester using procedures similar to Example 11 to give 1-(3-triisopropylsilanyloxy-propyl)-1H-indole-2-carboxylic acid as a white solid.

reactant | (3-Bromo-propoxy)-triisopropyl-silane | BrCCCO[Si](C(C)C)(C(C)C)C(C)C | C12H27BrOSi
reactant | 1H-indole-2-carboxylic acid methyl ester | COC(=O)C=1NC2=CC=CC=C2C1 | C10H9NO2
product | 1-(3-triisopropylsilanyloxy-propyl)-1H-indole-2-carboxylic acid | C(C)(C)[Si](OCCCN1C(=CC2=CC=CC=C12)C(=O)O)(C(C)C)C(C)C | C21H33NO3Si
